US04168267
Methanol (12.8 gm., 0.4 mol.) and triethylamine (40.4 gm., 0.4 mol.) are dissolved in 750 ml. ether and chilled in an ice bath. Phenyl dichlorophosphine (35.8 gm., 0.2 mol.) is added dropwise and the reaction mixture is stirred overnight. The resulting suspension is filtered and the filtrate concentrated to an oil which is distilled in vacuo to give the product, phenylphosphonous acid dimethyl ester, b.p. 100°-105° /10 mm; yield 20 gm. (59%).

reactant | Methanol | 0.4 mol, 12.8 gm | CO | CH4O
reactant | triethylamine | 0.4 mol, 40.4 gm | C(C)N(CC)CC | C6H15N
reactant | Phenyl dichlorophosphine | 0.2 mol, 35.8 gm | C1(=CC=CC=C1)P(Cl)Cl | C6H5Cl2P
reactant | ether | CCOCC | C4H10O
product | phenylphosphonous acid dimethyl ester | COP(OC)C1=CC=CC=C1 | C8H11O2P
